*****************************************************************
* NXP PSMN4R5_30YLC
*
* Polarity N-Channel
* Ratings 30V/4.8E-03OHMS/20A
*
* Date Created Sun Mar 13 13:51:30 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN4R5_30YLC DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 30000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00304110960965383 TC=0.00446105391052609,1.84274307058285e-05
RBD 9 4 0.00228886192859347 TC=0.00446105391052609,1.84274307058285e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 1.08032120003015e-09
RG 1 2 2.07663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -16	2111
+ -10	2058
+ -5	1991
+ -4	1972
+ -3	1948
+ -2	1914
+ -1	1857
+ -0.5	1793
+ -0.2	1642
+ -0.1	1521
+ 0	987.15
+ 0.1	479.1
+ 0.2	440.2
+ 0.5	347.8
+ 1	256.7
+ 2	184.7
+ 3	159.4
+ 4	142.2
+ 5	132.1
+ 6	124.9
+ 8	114.4
+ 10	107.0
+ 12	102.1
+ 15	96.9
+ 20	90.2



.MODEL MINT NMOS(Vto=1.96554804826916 Kp=2.4491e+02 Nfs=420000000000 Eta=10
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Vmax=1000)

.MODEL DBD D(Bv=31.00 Ibv=2.50E-01 Rs=1E-6 Is=1.91056575210286e-12
+ N=1 M=0.62 VJ=0.61 Fc=0.5 Cjo=1.4327e-09 Tt=2.976e-08)

.ENDS
